US05498609
To a solution of 7-chloro-5-(2-hydroxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.3 g) in pyridine (6 ml) is added acetic anhydride (0.09 ml), and the mixture is stirred at 80° C. for 2 hours. The reaction solution is poured into water, and extracted with ethyl acetate. The extract is washed successively with diluted hydrochloric acid, water and aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography, and recrystallized from dichloromethane-diethyl ether to give 7-chloro-5-(2-acetyloxyethyl)-1-[6-(2-chlorobenzoylamino )nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (230 mg) as white powder.

reactant | 7-chloro-5-(2-hydroxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.3 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCO)C1 | C25H23Cl2N3O3
reactant | acetic anhydride | 0.09 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-5-(2-acetyloxyethyl)-1-[6-(2-chlorobenzoylamino )nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 230 mg | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCOC(C)=O)C1 | C27H25Cl2N3O4
